US04080346
A graft polymer of 4-vinylpyridine and vinylbenzyldimethyl-benzyl-ammonium chloride on hydroxyethylcellulose having a hydroxethylcellulose 4-vinylpyridine/vinylbenzyldimethyl-benzyl-ammonium chloride weight ratio of 2.2:2.2:0.5 was prepared as follows:

reactant | 4-vinylpyridine | C(=C)C1=CC=NC=C1 | C7H7N
reactant | vinylbenzyldimethyl-benzyl-ammonium chloride | [Cl-].C(=C)C(C1=CC=CC=C1)[N+](C)(C)CC1=CC=CC=C1
product | 4-vinylpyridine vinylbenzyldimethyl-benzyl-ammonium chloride | C(=C)C1=CC=NC=C1.[Cl-].C(=C)C(C1=CC=CC=C1)[N+](C)(C)CC1=CC=CC=C1 | InChI=1S/C18H22N.C7H7N.ClH/c1-4-18(17-13-9-6-10-14-17)19(2,3)15-16-11-7-5-8-12-16;1-2-7-3-5-8-6-4-7;/h4-14,18H,1,15H2,2-3H3;2-6H,1H2;1H/q+1;;/p-1
